US09303012B2
1-[5-Cyclopropyl-6-(4-fluoro-benzyl)-pyridine-2-carbonyl]-1,8-diaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester
In analogy to the procedure described in Example 47 b), 5-cyclopropyl-6-(4-fluoro-benzyl)-pyridine-2-carboxylic acid (Example 5 g)) was reacted with tert-butyl 1,8-diazaspiro[4.5]decane-8-carboxylate (937729-06-1) in the presence of TBTU and DIEA to obtain the title compound as colorless oil; MS (EI): m/e=494.6 [MH+].

reactant | 5-cyclopropyl-6-(4-fluoro-benzyl)-pyridine-2-carboxylic acid | 5 g | C1(CC1)C=1C=CC(=NC1CC1=CC=C(C=C1)F)C(=O)O | C16H14FNO2
reactant | tert-butyl 1,8-diazaspiro[4.5]decane-8-carboxylate | N1CCCC12CCN(CC2)C(=O)OC(C)(C)C | C13H24N2O2
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | 1-[5-Cyclopropyl-6-(4-fluoro-benzyl)-pyridine-2-carbonyl]-1,8-diaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2(CCCN2C(=O)C2=NC(=C(C=C2)C2CC2)CC2=CC=C(C=C2)F)CC1 | C29H36FN3O3
